reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]1([H:8])([H:9])[C:2]([H:10])([H:14])[C@:7]([C:3](=[O:4])[H:11])([H:15])[C:6]1=[C:5]([H:12])[H:13]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[O:4][C:5]([H:12])([H:13])[C@:6]1([H:14])[C@@:7]23[H:15],106.6926286886466
[C:1]([C:2]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3]([O:4][H:13])[H:12]>>[C:1]([C@@:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],24.661637520769112
[C:1]([C-:2]([N+:3](=[C:4]([N:5]([H:11])[H:14])[C:6]#[N:7])[H:13])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],14.991801257435
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O+:4]=[C-:5][O:6][H:14])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],31.519026903249397
[H:8][H:9].[O:1]([C:2]1=[C:3]([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],69.1427820202676
[C-:6]#[O+:7].[C:1]([O:2][C:3]([O:4][H:13])=[C:5]([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],22.5197737288809
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[O-:1][N:2]([C+:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],54.401819549990904
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[O:1]([C@:2]([C:3][O:4][H:9])([C:5](=[O:6])[H:10])[H:8])[H:7],82.2954746610245
[C:1]([C-:2]1[N+:3]([H:11])([H:12])[C@:4]1([C@@:5]1([H:14])[C:6]([H:15])([H:16])[O:7]1)[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[N:3]([H:12])[C@:4]1([C@@:5]1([H:14])[C:6]([H:15])([H:16])[O:7]1)[H:13])([H:8])([H:9])[H:10],11.868826370267008
[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]1=[C:7]([H:14])[C@:6]1([N:5]([N:4])[H:12])[H:13])[H:11])([H:8])([H:9])[H:10],125.01859172121901
[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7]>>[C:5]=[N:6][H:7].[O:1]=[C:2]([C:3]#[C:4][H:9])[H:8],66.0826348461741
[C-:6]#[O+:7].[C:4](=[O:5])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],60.40123798813043
[C:2](=[C:3]([C:4]#[C:5][H:12])[C:6]#[N:7])([H:9])[H:10].[O:1]([H:8])[H:11]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],50.08544034397726
[C-:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C+:7]([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])[H:10].[H:9][H:17]>>[C:1]([C:2]([C:3]([C:4]([C:5]#[C:6][C:7]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],10.571265558247006
[C:1]([C:2](=[C:3]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[N:4](\[C:5]([H:15])([H:16])[H:17])=[C:6](/[O:7][H:12])[H:18]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10],29.575612498794605
[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[O:3][C:4](=[N:5]/[H:13])/[C:6]1=[N:7]/[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],94.20017419591036
[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]1[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],13.532629021737009
[C:1](#[C:2][C@@:3]1([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[O:6]1)[H:7]>>[C:1](#[C:2][C@@:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([O:6][H:9])[H:8])[H:7],91.2228433779078
[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5]>>[O:1]1[C:2]([H:6])([H:7])[C:3]1([H:8])[H:9].[O:4]([H:5])[H:10],74.9741323204872
[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](/[N:4]=[C:5](/[O:6][H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],45.2982911852808
[N:1]([C:2](=[O:3])[O+:5]=[C-:4][H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4](=[O:5])[H:8])([H:6])[H:7],24.56946850722379
[O:1]=[C:2]([N:3]([C:4]([C:5]#[N:6])([H:9])[H:10])[H:8])[H:7]>>[O:1](/[C:2](=[N:3]/[H:8])[H:7])[N:6]=[C:5]=[C:4]([H:9])[H:10],95.5372394883902
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([O:5][H:15])([H:13])[H:14])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2](=[C:3]([H:10])[H:12])[C:4]([O:5][H:15])([H:13])[H:14])([H:6])([H:7])[H:9].[H:8][H:11],115.07408232995
[O:1]1[C:2]([H:8])([H:9])[C:3]1([H:10])[H:11].[O:4]=[C:5]([N:6]([H:7])[H:13])[H:12]>>[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],55.80377770121369
[C:1]([C@@:4]([C:2](=[O:3])[H:10])([C:5]#[N:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],85.37164482336705
[C:3]([C:4]#[C:5][H:12])(=[C:6]=[N:7][H:8])[H:11].[O:1]=[C:2]([H:9])[H:10]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],16.506873897937393
